US05100891
1,2,3,3a,4,8a-Hexahydro-4-methylcyclopent[b]indol-3-amine 2-naphthalenesulfonate
A 1.7 g sample of 1,2,3,3a,4,8a-hexahydro-4-methylcyclopent[b]indol-3-amine was dissolved in 150 ml Et2O and a solution of 1.9 g of 2-naphthalene sulfonic acid in ether was added in a dropwise manner with stirring. A solid was collected by filtration under N2.

reactant | 1,2,3,3a,4,8a-hexahydro-4-methylcyclopent[b]indol-3-amine | CN1C2C(C3C=CC=CC13)CCC2N | C12H18N2
reactant | 2-naphthalene sulfonic acid | 1.9 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
solvent | Et2O | 150 ml | CCOCC | C4H10O
product | 1,2,3,3a,4,8a-Hexahydro-4-methylcyclopent[b]indol-3-amine 2-naphthalenesulfonate | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O.CN1C2C(C3C=CC=CC13)CCC2N | InChI=1S/C12H18N2.C10H8O3S/c1-14-11-5-3-2-4-8(11)9-6-7-10(13)12(9)14;11-14(12,13)10-6-5-8-3-1-2-4-9(8)7-10/h2-5,8-12H,6-7,13H2,1H3;1-7H,(H,11,12,13)
